US07091220B2
5-Benzyloxy-3-(phenylpiperidin-1-yl-methyl)-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 5-benzyloxy-1H-indole and 1-benzylidene-piperidinium chloride.

reactant | 5-benzyloxy-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 1-benzylidene-piperidinium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCCCC1
product | 5-Benzyloxy-3-(phenylpiperidin-1-yl-methyl)-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(N1CCCCC1)C1=CC=CC=C1 | C27H28N2O
